US09340538B2
2-(4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-2-yl)acetic acid
Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.65 g, 1.37 mmol) was reacted with 2-(morpholin-2-yl)acetic acid hydrochloride (0.3 g, 1.65 mmol) according to the procedure as described in Example 3 to give the title compound as a yellow solid (0.36 g, 49%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.37 mmol, 0.65 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C17H14BrCl2N3O2S
reactant | 2-(morpholin-2-yl)acetic acid hydrochloride | 1.65 mmol, 0.3 g | Cl.N1CC(OCC1)CC(=O)O
product | 2-(4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-2-yl)acetic acid | 0.36 g, 49% | ClC1=C(C=CC(=C1)Cl)C1C(=C(NC(=N1)C=1SC=CN1)CN1CC(OCC1)CC(=O)O)C(=O)OCC | C23H24Cl2N4O5S
